US04383945
To a solution of methyl 2-[(3R,4R)-3-isocyano-2-oxo-4-allylazetidin-1-yl]-3-methylbut-2-enoate (127.6 mg) in tetrahydrofuran (2.55 ml) was added dropwise a solution of n-butyl lithium (0.409 ml of 1.51 M solution in hexane) at -78° C. over a period of 3 minutes. After stirring for 15 minutes at -78° C., the reaction mixture was added dropwise with a solution of acetone (0.0459 ml) in tetrahydrofuran (0.459 ml) at -78° C. over a period of 3 minutes. After stirring for 25 minutes at -78° C., the reaction mixture was added dropwise with a solution of 4-nitrobenzyl chloroformate (124.1 mg) in tetrahydrofuran (1.24 ml) at -78° C. over a period of 3 minutes. The resulting solution was allowed to warm to 0° C. over a period of 40 minutes and added with acetic acid (0.0412 ml) at 0° C. The solvent was distilled off in vacuo at 0° C. and the residue was dissolved in ethyl acetate (30 ml) and washed with brine, aqueous sodium bicarbonate, brine and saturated aqueous sodium chloride. After drying over magnesium sulfate, the ethyl acetate extract was filtered and evaporated in vacuo. The residual oil (285.4 mg) was chromatographed on silica gel (5.7 g) eluting with a mixture of ethyl acetate and hexane (1:5→1:3) to give methyl 2-{(3R, 4R)-3-isocyano-3-[1-methyl-1-(4-nitrobenzyloxycarbonyloxy)ethyl]-2-oxo-4-allylazetidin-1-yl}-3-methylbut-2-enoate (211.2 mg) as an oil.

reactant | methyl 2-[(3R,4R)-3-isocyano-2-oxo-4-allylazetidin-1-yl]-3-methylbut-2-enoate | 127.6 mg | [N+](#[C-])[C@H]1C(N([C@@H]1CC=C)C(C(=O)OC)=C(C)C)=O | C13H16N2O3
reactant | n-butyl lithium | 1.51 M, 0.409 ml | C(CCC)[Li]
reactant | acetone | 0.0459 ml | CC(=O)C | C3H6O
reactant | 4-nitrobenzyl chloroformate | 124.1 mg | ClC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C8H6ClNO4
solvent | tetrahydrofuran | 2.55 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.459 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1.24 ml | O1CCCC1 | C4H8O
solvent | acetic acid | 0.0412 ml | C(C)(=O)O | C2H4O2
product | methyl 2-{(3R, 4R)-3-isocyano-3-[1-methyl-1-(4-nitrobenzyloxycarbonyloxy)ethyl]-2-oxo-4-allylazetidin-1-yl}-3-methylbut-2-enoate | 211.2 mg | [N+](#[C-])[C@@]1(C(N([C@@H]1CC=C)C(C(=O)OC)=C(C)C)=O)C(C)(OC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C | C24H27N3O8
